US04731458
4-(5-Methoxyheptyl)spiro[bicyclo[3.2.0]heptane-6,2'-oxirane]
A 250 ml, 3-necked round bottomed flask is equipped with a magnetic stirrer. The reaction is conducted under a positive nitrogen pressure, maintained with an oil filled bubbler. The reaction vessel is charged with dimethyloxosulfonium methylide (36 ml of 0.932M solution, 0.034 moles) in dimethyl sulfoxide. 4-(5-Methoxyheptyl)bicyclo[3.2.0]heptan-6-one (7.7 g, 0.032 moles) is added neat to the stirring solution by a syringe. The reaction vessel is heated in a 40° C. water bath for 60 minutes and then a sample is removed and analyzed by infra-red spectroscopy.

reactant | dimethyloxosulfonium methylide | 0.034 moles, 0.932M, 36 ml | CS(=C)(=O)C | C3H8OS
reactant | 4-(5-Methoxyheptyl)bicyclo[3.2.0]heptan-6-one | 0.032 moles, 7.7 g | COC(CCCCC1CCC2CC(C12)=O)CC | C15H26O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-(5-Methoxyheptyl)spiro[bicyclo[3.2.0]heptane-6,2'-oxirane] | COC(CCCCC1CCC2CC3(OC3)C12)CC | C16H28O2
